US07244730B2
(Step 1) 1-{3-(tert-Butyl)-5-[(3S,4S)-3-ethoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone
Tetra-n-butylammonium bromide (380 mg, 1.18 mmol) and ethyl iodide (0.4 ml, 5.0 mmol) were added to a solution of 1-{3-(tert-butyl)-5-[(3S,4S)-3-hydroxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone (830 mg, 2.36 mmol) in a toluene (5 ml) −50% aqueous NaOH (5 ml) mixed solvent at room temperature in that order and the mixture was stirred for 19 hours. After further adding ethyl iodide (0.2 ml) and stirring for 9 hours, more ethyl iodide (0.2 ml) was added and stirring was continued for 60 hours. The mixture was diluted with water, extraction was performed with ethyl acetate and the extract was washed with brine. After drying with anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to yield the title compound (650 mg, 73%) as a light yellow oil.

reactant | ethyl iodide | 5.0 mmol, 0.4 ml | C(C)I | C2H5I
reactant | 1-{3-(tert-butyl)-5-[(3S,4S)-3-hydroxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone | 2.36 mmol, 830 mg | C(C)(C)(C)C=1C=C(C=C(C1OC)N1C[C@@H]([C@H](C1)OCOC)O)C(C)=O | C19H29NO5
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
reactant | ethyl iodide | 0.2 ml | C(C)I | C2H5I
reactant | ethyl iodide | 0.2 ml | C(C)I | C2H5I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetra-n-butylammonium bromide | 1.18 mmol, 380 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | 1-{3-(tert-Butyl)-5-[(3S,4S)-3-ethoxy-4-(methoxymethoxy)tetrahydro-1H-1-pyrrolyl]-4-methoxyphenyl}-1-ethanone | 650 mg, 73% | C(C)(C)(C)C=1C=C(C=C(C1OC)N1C[C@@H]([C@H](C1)OCOC)OCC)C(C)=O | C21H33NO5
